US05610198
To nonadecanol (1.0 g, 3.5 mmol) was added 1500 μL hydrobromic acid (48% wt/vol). After cooling in ice, concentrated sulfuric acid (400 μL) was added and the reaction was allowed to warm to room temperature. A condenser and drying tube were placed over the reaction and the mixture was slowly heated to 120° C. The solution was kept at reflux for five hours and then cooled. The solidified product was resuspended in a mixture of ethyl acetate (50 mL) and water (10 mL). The aqueous layer was removed and the organic layer was washed with water (2×10 mL), then 5% sodium bicarbonate (10 mL) and then one final time with water. The resulting solution was dried over magnesium sulfate and filtered. The solvent was removed to provide a crude product which was purified by silica chromatography (hexanes:ethyl acetate, 80:20, as eluant) to give the desired 1-nonadecyl bromide (624 mg, 1.79 mmol, 51%). 1H NMR (CDCl3 , 300 MHz); δ3.40 (t, J=6.9 Hz, 2H), 1.83 (m, 2H), 1.41 (br s, 2H), 1.25 (s, 32H), 0.87 (t, J=6.7 Hz). 13C NMR (CDCl3' 67.93 MHz); δ33.94 32.83, 31.90, 29.65, 29.52, 29.42, 29.33, 28.75, 28.16, 22.66, 14.07. M.S. (EI+); 346 (M+), 267 (M-Br).

reactant | nonadecanol | 3.5 mmol, 1.0 g | C(CCCCCCCCCCCCCCCCCC)O | C19H40O
reactant | hydrobromic acid | 1500 μL | Br | BrH
reactant | sulfuric acid | 400 μL | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 1-nonadecyl bromide | 1.79 mmol, 624 mg, 51% | C(CCCCCCCCCCCCCCCCCC)Br | C19H39Br
